US05811432
6-Chloro-3-(4-methyl-2-thenoyl)-4-azaoxindole was first prepared according to a variation of the procedure of Example 2B, using 6-chloro-4-azaoxindole (1.3 g, 7.71 mmol) sodium (1.75 g, 49.7 mmol), 4-methylthiophene-2-carbonyl chloride (1.93 g, 12.0 mmol) and ethanol (40 mL). Ethyl-4-methylthiophene-2-carboxylate was prepared in situ by addition of the acid chloride to the sodium ethoxide solution. The azaoxindole was added and the reaction carried out as in Example 1B. Yield: 1.64 g (46%) m.p.>250°.

reactant | 6-Chloro-3-(4-methyl-2-thenoyl)-4-azaoxindole | ClC1=CN=C2C(C(NC2=C1)=O)C(C1=CC(=CS1)C)=O | C13H9ClN2O2S
reactant | 6-chloro-4-azaoxindole | 7.71 mmol, 1.3 g | ClC1=CN=C2CC(NC2=C1)=O | C7H5ClN2O
reactant | 4-methylthiophene-2-carbonyl chloride | 12.0 mmol, 1.93 g | CC=1C=C(SC1)C(=O)Cl | C6H5ClOS
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | azaoxindole | N1C(NC2=CC=CC=C12)=O | C7H6N2O
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | Ethyl-4-methylthiophene-2-carboxylate | C(C)OC(=O)C=1SC=C(C1)C | C8H10O2S
